US07179823B1
A mixture of ethyl 3-[4-phenyl-1-[4-(2-phenyl-4-oxazolylmethoxy]benzyl]-3-pyrrolyl]propionate (532 mg), 1N aqueous sodium hydroxide solution (2.5 ml), tetrahydrofuran (5 ml), and ethanol (5 ml) was stirred at room temperature overnight, and 1N hydrochloric acid (2.5 ml) was added to the mixture, which was extracted with ethyl acetate. The ethyl acetate layer was washed with saturated aqueous sodium chloride solution, dried (MgSO4), then concentrated. The colorless crystals obtained were collected by filtration to yield 3-[4-phenyl-1-[4-(2-phenyl-4-oxazolylmethoxy]benzyl]-3-pyrrolyl]propionic acid (428 mg, yield: 85%). This was recrystallized from ethanol-hexane. Melting point: 139–140° C.

reactant | ethyl 3-[4-phenyl-1-[4-(2-phenyl-4-oxazolylmethoxy]benzyl]-3-pyrrolyl]propionate | 532 mg | C1(=CC=CC=C1)C=1C(=CN(C1)CC1=CC=C(C=C1)OCC=1N=C(OC1)C1=CC=CC=C1)CCC(=O)OCC | C32H30N2O4
reactant | sodium hydroxide | 1N, 2.5 ml | [OH-].[Na+]
reactant | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
reactant | hydrochloric acid | 1N, 2.5 ml | Cl | ClH
solvent | ethanol | 5 ml | C(C)O | C2H6O
product | 3-[4-phenyl-1-[4-(2-phenyl-4-oxazolylmethoxy]benzyl]-3-pyrrolyl]propionic acid | 428 mg, yield: 85% | C1(=CC=CC=C1)C=1C(=CN(C1)CC1=CC=C(C=C1)OCC=1N=C(OC1)C1=CC=CC=C1)CCC(=O)O | C30H26N2O4
